US04943574
A mixture of 1.6 parts of 4-(1H-imidazol-1-ylmethyl)-N2 -phenyl-1,2-benzenediamine, 20 parts of acetic acid and 1.08 parts of concentrated hydrochloric acid was cooled in an ice bath at 12°-16° C. A solution of 0.83 parts of sodium nitrite in 7 parts of water was added dropwise. Upon complete addition, the reaction mixture was allowed to reach room temperature while stirring. The reaction mixture was poured into alkaline ice water and the product was extracted with dichloromethane. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel first using a mixture of trichloromethane and methanol, saturated with ammonia, (97.5:2.5 by volume) and then a mixture of ethyl acetate, methanol and methanol, saturated with ammonia (92:2.5:2.5 by volume) as eluents. The pure fractions were collected and the eluent was evaporated. The residue was taken up in a mixture of 2-propanone and 2,2'-oxybispropane. The product was filtered off, washed with 2,2'-oxybispropane and dried in vacuo at 60° C., yielding 0.81 parts (49.0%) of 6-(1H-imidazol-1-ylmethyl)-1-phenyl-1H-benzotriazole; mp. 110.1° C. (compound 72).

reactant | 4-(1H-imidazol-1-ylmethyl)-N2 -phenyl-1,2-benzenediamine | N1(C=NC=C1)CC=1C=C(C(=CC1)N)NC1=CC=CC=C1 | C16H16N4
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | Cl | ClH
reactant | sodium nitrite | N(=O)[O-].[Na+]
solvent | water | O | H2O
product | 6-(1H-imidazol-1-ylmethyl)-1-phenyl-1H-benzotriazole | 49.0% | N1(C=NC=C1)CC=1C=CC2=C(N(N=N2)C2=CC=CC=C2)C1 | C16H13N5
